US08476455B2
4-[N-[(2,2-dioxido-3,4-dihydro-1,2,3-benzoxathiazin-6-yl)methyl]-N-(1H-imidazol-1-yl)amino]benzonitrile
To a suspension of +[N-[(2,2-dioxido-1,2,3-benzoxathiazin-6-yl)methyl]-N-(1H-imidazol-1-yl)amino]benzonitrile (0.40 g, 1.05 mmol) in methanol (8 ml) was added portionwise NaBH4 (0.08 g, 2.11 mmol) and the reaction mixture was stirred at room temperature for 3 h. After addition of a saturated solution of NH4Cl (3 ml) and water (40 ml), the precipitate obtained was filtered, washed with water and dried to give a white solid. Crystallization from ethyl acetate with ethanol yielded the expected product (0.40 g, 82%, mp: 190° C.).

reactant | [N-[(2,2-dioxido-1,2,3-benzoxathiazin-6-yl)methyl]-N-(1H-imidazol-1-yl)amino]benzonitrile | 1.05 mmol, 0.40 g | O=S1(OC2=C(C=N1)C=C(C=C2)CN(N2C=NC=C2)C2=C(C#N)C=CC=C2)=O | C18H13N5O3S
reactant | NaBH4 | 2.11 mmol, 0.08 g | [BH4-].[Na+]
reactant | NH4Cl | 3 ml | [NH4+].[Cl-]
reactant | water | 40 ml | O | H2O
solvent | methanol | 8 ml | CO | CH4O
product | 4-[N-[(2,2-dioxido-3,4-dihydro-1,2,3-benzoxathiazin-6-yl)methyl]-N-(1H-imidazol-1-yl)amino]benzonitrile | 0.40 g, 82% | O=S1(OC2=C(CN1)C=C(C=C2)CN(N2C=NC=C2)C2=CC=C(C#N)C=C2)=O | C18H15N5O3S
